US05012017
All the components (301 g of 46 percent aqueous KOH, 501 g of fluorobenzophenone, 800 mL of DMSO, and 269 g of fluorophenol), plus 5 mole percent BHT (25 g) were mixed together under a nitrogen atmosphere and distillation of water was carried out at a maximum temperature of 80° C. Reaction continued at 70° C. for a total of 12 hr. Purification by lights distillation gave an 87 percent yield of 4-(2-fluoro-phenoxy)benzophenone.

reactant | KOH | 301 g | [OH-].[K+]
reactant | fluorobenzophenone | 501 g | FC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9FO
reactant | fluorophenol | 269 g | FC1=C(C=CC=C1)O | C6H5FO
solvent | DMSO | 800 mL | CS(=O)C | C2H6OS
product | 4-(2-fluoro-phenoxy)benzophenone | 87 percent yield | FC1=C(OC2=CC=C(C(=O)C3=CC=CC=C3)C=C2)C=CC=C1 | C19H13FO2
